US04597902
N-(1-Methylethyl)-3-(phenylsulfonyl)-1-propanamine hydrochloride
A solution of 66.55 g (0.3052 mole) of 3-chloropropylphenyl sulfone (prepared by reacting m-chloroperoxybenzoic acid and 3-chloropropyl phenylsulfide in methylene chloride) in 200 ml of isopropylamine was heated at 100° C. overnight in a bomb. The isopropylamine was removed by rotary evaporation and the residue partitioned between chloroform and water. The chloroform layer was extracted with 1N sulfuric acid. The acidic layer was made alkaline and extracted with chloroform. The combined chloroform extract was evaporated to give an oil, the free base of the title compound. The oil was converted to the hydrochloride salt by reacting with ethereal hydrogen chloride. Recrystallization of the precipitated salt from methanol-diethyl ether gave 48.04 g (65.3%) of white crystalline powder, m.p. 185°-186° C.

reactant | 3-chloropropylphenyl sulfone | 0.3052 mole, 66.55 g | ClCCCS(=O)(=O)C1=CC=CC=C1 | C9H11ClO2S
reactant | isopropylamine | 200 ml | C(C)(C)N | C3H9N
product | N-(1-Methylethyl)-3-(phenylsulfonyl)-1-propanamine hydrochloride | Cl.CC(C)NCCCS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C12H19NO2S.ClH/c1-11(2)13-9-6-10-16(14,15)12-7-4-3-5-8-12;/h3-5,7-8,11,13H,6,9-10H2,1-2H3;1H
